US08471005B2
2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol 1-(3-Nitro-phenyl)-piperazine; hydrochloride (2.0 g, 0.0082 mol) was dissolved in Methanol (42.5 mL) and the reaction mixture was placed in a sealed tube. 1,2-epoxy-2-methylpropane (0.888 g, 0.0123 mol) was then added at room temperature and the reaction was allowed to stir overnight. The mixture was then reduced en vacuo and the product was isolated by Isco flash column chromatography (DCM/MeOH) to afford 1.60 grams of 2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol as a yellow powder.

reactant | 2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol 1-(3-Nitro-phenyl)-piperazine | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1.CC(CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])(C)O
reactant | hydrochloride | 0.0082 mol, 2.0 g | Cl | ClH
reactant | 1,2-epoxy-2-methylpropane | 0.0123 mol, 0.888 g | O1CC1(C)C | C4H8O
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | Methanol | 42.5 mL | CO | CH4O
product | 2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol | 1.60 grams | CC(CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])(C)O | C14H21N3O3
